US04665202
A solution containing 2.7 g 4-chloro-3-formyl-flav-3-ene, 0.85 ml thioglycolic acid and 2.5 g sodium bicarbonate in 30 ml absolute ethanol is refluxed for 15 hours. After evaporation, one adds water and extracts with methylene chloride. The aqueous phase is acidified to pH 1. Extraction with methylene chloride is followed by washing the organic solution with water, drying over magnesium sulfate and evaporation. The residue is purified by column chromatography on silicagel using a mixture of methylene chloride and ethanol as eluant. The best fractions are crystallized in a mixture of hexane and toluene. Pure 4-(S-carboxymethylthio)-3-formyl-flav-3-ene is obtained as yellow crystals; m.p. 127°-129° C.

reactant | 4-chloro-3-formyl-flav-3-ene | 2.7 g | ClC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C16H11ClO2
reactant | thioglycolic acid | 0.85 ml | C(CS)(=O)O | C2H4O2S
reactant | sodium bicarbonate | 2.5 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(S-carboxymethylthio)-3-formyl-flav-3-ene | C(=O)(O)CSC1=C(C(OC2=CC=CC=C12)C1=CC=CC=C1)C=O | C18H14O4S
